US05217964
Step e: 1,19-Bis[(4-mercaptophenyl)methyl]-1,6,14,19-tetraazanonadecane
Dissolve 1,19-bis[(4-mercaptophenyl)methyl]-1,6,14,19-tetra(t-butyloxycarbonyl)-1,6,14,19-tetraazanonadecane (9.60 g, 10 mmol) in saturated methanolic hydrochloric acid (100 mL). Stir for several hours and evaporate the solvent in vacuo to give the title compound.

reactant | 1,19-bis[(4-mercaptophenyl)methyl]-1,6,14,19-tetra(t-butyloxycarbonyl)-1,6,14,19-tetraazanonadecane | 10 mmol, 9.60 g | SC1=CC=C(C=C1)CN(CCCCN(CCCCCCCN(CCCCN(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)S)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C49H80N4O8S2
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | 1,19-Bis[(4-mercaptophenyl)methyl]-1,6,14,19-tetraazanonadecane | SC1=CC=C(C=C1)CNCCCCNCCCCCCCNCCCCNCC1=CC=C(C=C1)S | C29H48N4S2
